US04788207
A stirred mixture of 12.1 grams (0.0703 mole) of 4-chlorophenylthiocarboxamide, 12.1 grams (0.0714 mole) of bromoacetaldehyde dimethyl acetal, and 2 ml of concentrated hydrochloric acid in 280 ml of ethanol was heated at reflux for approximately 18 hours. An additional 1 ml of concentrated hydrochloric acid was added, and the mixture was heated at reflux for two days. The reaction mixture was cooled, and the solvent was removed by evaporation under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with methylene chloride:n-hexane (3:1), to yield 4.8 grams of 2-(4-chlorophenyl)thiazole as a solid.

reactant | 4-chlorophenylthiocarboxamide | 0.0703 mole, 12.1 grams | ClC1=CC=C(C=C1)C(=S)N | C7H6ClNS
reactant | bromoacetaldehyde dimethyl acetal | 0.0714 mole, 12.1 grams | COC(CBr)OC | C4H9BrO2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 2-(4-chlorophenyl)thiazole | 4.8 grams | ClC1=CC=C(C=C1)C=1SC=CN1 | C9H6ClNS
